US07335674B2
1.2) N-(3,5-dimethoxyphenyl)-2,6-difluorobenzenecarbothioamide:
20.3 g (50 mmol; 1.5 equivalents) of Lawesson's reagent is added to 9.8 g (33.4 mmol) of N-(3,5-dimethoxyphenyl)-2,6-difluorobenzamide in solution in 150 ml of anhydrous toluene. The reaction medium is maintained under stirring at 120° C. for 8 hours, then, after returning to ambient temperature, is washed with 3 times 75 ml of water. The resulting organic phase is dried over magnesium sulphate then the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a silica column (eluent: dichloromethane/methanol 98/2) and the expected product is obtained in the form of a green oil (10 g; yield=96%).

reactant | Lawesson's reagent | 50 mmol, 20.3 g, 1.5 equivalents | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-(3,5-dimethoxyphenyl)-2,6-difluorobenzamide | 33.4 mmol, 9.8 g | COC=1C=C(C=C(C1)OC)NC(C1=C(C=CC=C1F)F)=O | C15H13F2NO3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-dimethoxyphenyl)-2,6-difluorobenzenecarbothioamide | yield=96% | COC=1C=C(C=C(C1)OC)NC(=S)C1=C(C=CC=C1F)F | C15H13F2NO2S
